US06046232
Synthesis of α-(4-Benzyloxy-3-methoxyphenyl)-N-isopropylnitrone
The title compound was prepared according to the procedures described in Examples 11 using 4-benzyloxy-3-methoxybenzaldehyde and N-isopropylhydroxylamine. The title compound was isolated in 54.6% yield as a solid, m.p. 95.5° C.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | N-isopropylhydroxylamine | C(C)(C)NO | C3H9NO
product | α-(4-Benzyloxy-3-methoxyphenyl)-N-isopropylnitrone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=[N+]([O-])C(C)C)OC | C18H21NO3
